* Actual SKY130 transistor frontend; ideal R/C passives, schematic only.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/frontend/results/cm_loop_initial/injected_core.spice
.temp 27
VDD VDD 0 1.8
VCM VCM 0 0.9

VIP SP 0 0.9
VIN SN 0 0.9
RSP SP IP 350
RSN SN IN 350
XPGA IP IN OP ON VDD 0 VCM sky130_v2_pga RF=40000
CLP OP 0 5p
CLN ON 0 5p
.control
set wr_singlescale
set wr_vecnames
op
ac dec 100 1 1g
let ret=-v(xpga.xamp.cmsense)/v(xpga.xamp.cmin)
let mag=db(ret)
let ph=180/pi*cph(ret)
wrdata cm_loop.dat mag ph
quit
.endc
.end
